US07465736B2
Step 2: Tert-Butyl-3-(3,5-dioxomorpholin-4-yl)propylcarbamate
A mixture of diglycolic anhydride (22 g, 0.188 mol), tert-butyl-3-aminopropylcarbamate (65 g, 0.377 mol) and NMM (21 mL, 0.188 mol) in DMA (300 mL) was heated up to 120° C. for 48 h. The reaction mixture was cooled down to r.t and diluted with EtOAc (1.5 L). The solution was washed with brine (5×150 mL), dried with MgSO4 and concentrated under reduced pressure. The crude was purified by column chromatography over silica gel (15% ethylacetate in chloroform) affording 15 g of the title compound (30%).

reactant | diglycolic anhydride | 0.188 mol, 22 g | C1(COCC(=O)O1)=O | C4H4O4
reactant | tert-butyl-3-aminopropylcarbamate | 0.377 mol, 65 g | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | NMM | 0.188 mol, 21 mL | CN1CCOCC1 | C5H11NO
solvent | DMA | 300 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 1.5 L | CCOC(=O)C | C4H8O2
product | Tert-Butyl-3-(3,5-dioxomorpholin-4-yl)propylcarbamate | 15 g, 30% | C(C)(C)(C)OC(NCCCN1C(COCC1=O)=O)=O | C12H20N2O5
